US08937183B2
Synthesis of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthoic acid (1203-33)
A mixture of 4-bromo-1-naphthoic acid (4.12 g, 16.43 mmol), bis(pinacolato)diborane (4.38 g, 17.25 mmol), cesium fluoride (7.49 g, 49.28 mmol), triphenylphosphine (0.86 g, 3.29 mmol) in acetonitrile was added palladium acetate (0.37 g, 1.64 mmol). The reaction mixture was refluxed overnight. After cooling down, it was filtered through Celite and extracted with ethyl acetate/water. The organic layer was collected and dried over sodium sulfate. After filtration, solvent was removed and the residue was purified by flash chromatography to give the product as a white solid (2.5 g, 51%). 1H NMR (300 MHz, DMSO, δ): 8.76 (m, 1H), 8.69 (m, 1H), 8.02 (m, 2H), 7.61 (m, 1H), 1.28 (s, 12H).

reactant | 4-bromo-1-naphthoic acid | 16.43 mmol, 4.12 g | BrC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7BrO2
reactant | bis(pinacolato)diborane | 17.25 mmol, 4.38 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | cesium fluoride | 49.28 mmol, 7.49 g | [F-].[Cs+]
reactant | triphenylphosphine | 3.29 mmol, 0.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | palladium acetate | 1.64 mmol, 0.37 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthoic acid | 2.5 g, 51% | CC1(OB(OC1(C)C)C1=CC=C(C2=CC=CC=C12)C(=O)O)C | C17H19BO4
